US05070089
Methyl 4-(6-propyloxycarbonyl-2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate (Com. No. 44)
In 10 ml of ethanol was dissolved 0.86 g (10 mmol.) of 35% formalin. To the solution placed in an ice bath was further added a solution of 1.94 g (10 mmol., purity 90.7%) of methyl 1-piperazinecarbodithioate in 4 ml of ethanol. The resulting mixture was then stirred for 30 min. at room temperature. To the mixture placed in an ice bath was dropwise added a solution of 2.12 g (10 mmol.) of propyl gallate in 4 ml of ethanol. The mixture was stirred overnight at room temperature and subsequently refluxed under heating for 4 hours. The mixture was cooled to room temperature. Precipitated crystals were collected by filtration and washed with ethanol to give 1.843 g of the desired compound as a grayish powder, m.p. 142°-144° C. (decomp.), yield 31.3%.

reactant | formalin | 10 mmol, 0.86 g | C=O | CH2O
reactant | methyl 1-piperazinecarbodithioate | 10 mmol, 1.94 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | propyl gallate | 10 mmol, 2.12 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)OCCC | C10H12O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl 4-(6-propyloxycarbonyl-2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate | 1.843 g, yield 31.3% | C(CC)OC(=O)C1=CC(=C(C(=C1CN1CCN(CC1)C(=S)SC)O)O)O | C17H24N2O5S2
